US05338743
To a solution of 3-[2-{2-(ethoxycarbonylmethylamino)ethyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.80 g) in ethanol (8 ml) was added a solution of sodium hydroxide (0.15 g) in water (4 ml) and the mixture was stirred for 0.5 hour at room temperature. The reaction mixture was concentrated and the residue was partitioned between water and ethyl acetate. The aqueous layer was separated, neutralized with 1N hydrochloric acid to give the precipitate, which was collected and purified by recrystallization from 50% aqueous ethanol to give 3-[2-{2-(carboxymethylamino)ethyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.50 g).

reactant | 3-[2-{2-(ethoxycarbonylmethylamino)ethyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.80 g | C(C)OC(=O)CNCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H23N5O3
reactant | sodium hydroxide | 0.15 g | [OH-].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
product | 3-[2-{2-(carboxymethylamino)ethyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.50 g | C(=O)(O)CNCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C21H19N5O3
